*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/B(-25to85[deg])/1.00e-01[uF]/50[V]
* Murata P/N :GRM155B31H104KE14
* Property : C = 1.00e-01[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155B31H104KE14 Port1 Port2
C01 Port1 N01 9.30e-08
R01 Port1 N01 5.00e+08
L02 N01 N02 1.17e-10
R03 N02 N03 1.44e-02
C04 N03 N04 1.25e-05
R04 N03 N04 3.04e+02
C05 N04 N05 1.65e-05
R05 N04 N05 4.39e+01
C06 N05 N06 1.41e-05
R06 N05 N06 7.46e+00
C07 N06 N07 1.28e-05
R07 N06 N07 1.30e+00
C08 N07 N08 1.03e-05
R08 N07 N08 1.98e-01
C09 N08 N09 7.71e-06
R09 N08 N09 3.89e-02
C10 N09 N10 9.53e-06
R10 N09 N10 7.15e-03
L11 N10 N11 1.30e-11
R11 N10 N11 8.90e-02
L12 N11 N12 9.65e-11
R12 N11 N12 6.74e-02
C13 N12 N13 6.50e-07
L13 N12 N13 1.23e-11
R13 N12 N13 1.12e-02
C14 N13 N14 1.85e-07
L14 N13 N14 2.10e-11
R14 N13 N14 2.12e-02
C15 N14 Port2 2.31e-12
L15 N14 Port2 8.12e-11
R15 N14 Port2 1.94e+01
.ENDS GRM155B31H104KE14
